US08247429B2
2-(dibenzylamino)-5,6-dihydro-7H-cyclopenta[b]pyridin-7-one
To a suspension of methyl 6-(dibenzylamino)-3-(3-methoxy-3-oxopropyl)pyridine-2-carboxylate (2.02 g, 4.83 mmol) and 60% sodium hydride (386 mg, 9.65 mmol) in tetrahydrofuran (48 mL) was added methanol (1 drop), and the mixture was heated under reflux for 1.5 hr. The reaction solution was concentrated to dryness, 12M hydrochloric acid (24 mL) was added, and the mixture was stirred at 110° C. for 15 min. The reaction solution was diluted with ethyl acetate, neutralized with saturated aqueous sodium hydrogen carbonate solution, and washed with saturated brine. This was dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate/hexane=10/90→40/60) to give the title compound (1.17 g, yield 74%).

reactant | methyl 6-(dibenzylamino)-3-(3-methoxy-3-oxopropyl)pyridine-2-carboxylate | 4.83 mmol, 2.02 g | C(C1=CC=CC=C1)N(C1=CC=C(C(=N1)C(=O)OC)CCC(=O)OC)CC1=CC=CC=C1 | C25H26N2O4
reactant | sodium hydride | 9.65 mmol, 386 mg | [H-].[Na+]
solvent | tetrahydrofuran | 48 mL | O1CCCC1 | C4H8O
catalyst | methanol | 1 drop | CO | CH4O
product | 2-(dibenzylamino)-5,6-dihydro-7H-cyclopenta[b]pyridin-7-one | 1.17 g, yield 74% | C(C1=CC=CC=C1)N(C1=CC=C2C(=N1)C(CC2)=O)CC2=CC=CC=C2 | C22H20N2O
